Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Percocet / Percodan / colchicine
 
Attending: ___
 
Chief Complaint:
slurred speech and facial droop
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo RHF,  past medical history of hypertension, 
hyperlipidemia, hypothyroidism, and borderline diabetes, who 
presents for an episode of slurred speech, nausea, LH, and 
facial droop.  She is in her usual state of health until  10:45 
AM, when she was sitting in her bedroom looking at a book.  

She had an acute onset of slurred speech, nausea, and dizziness. 
 She described she that she knew what she wanted to say, but she 
was unable to form words.  She also notes that she was drooling 
from both sides of her mouth.  She also endorses dizziness 
described as lightheadedness "like I was going to faint" and 
nausea.  She denied vomiting.  She called her daughter at 11:07 
AM on the phone.  Her daughter had gone down the street to grab 
coffee. 

Her daughter at bedside noted that she had difficultly 
understanding her on the phone. She was in her room minutes 
later, and described her speech as slurred, with words "long and 
drawn out".  She had to listen to her speech very carefully to 
try to understand what her mother was saying.  The patient 
stated that she was able to understand her daughter and denied 
any difficulties with comprehending speech.  Her daughter noted 
that the left side of her face looked droopy.  EMS was called.  
On EMS arrival her daughter noted that when she is asked to 
smile that her right mouth was slower to activate.  She gave her 
4 baby aspirin.

She was taken to an outside hospital, at the outside hospital 
she still had the 4 baby aspirin in her mouth.  She noted that 
she had difficulty swallowing and she just allowed the aspirin 
to dissolve in her mouth.  Her system her persistent symptoms 
lasted a total of 30 minutes and appeared to slowly improve.  
She denied any unilateral weakness in her right or left side.  
She noted that she was still able to ambulate independently 
after symptom onset.  She has never had symptoms like this 
before.  She is transferred for TIA workup to ___.

 
ROS: On neurologic review of systems, the patient denies 
headache,  or confusion. Denies difficulty with comprehending 
speech. Denies loss of vision, blurred vision, diplopia, 
vertigo, tinnitus, hearing difficulty. Denies focal muscle 
weakness, numbness, parasthesia. Denies loss of sensation. 
Denies bowel or bladder incontinence or retention. Denies 
difficulty with gait.
 
On general review of systems, the patient endorses increased 
urination the last 24 hours after taking a water pill.  She 
denies dysuria.  She endorses occasional cough which she 
attributes to lisinopril.  She denies fevers, rigors, night 
sweats, or noticeable weight loss. Denies chest pain, 
palpitations, dyspnea, or cough. Denies vomiting, diarrhea, 
constipation, or abdominal pain.  No recent change in bowel 
habits.  Denies dysuria or hematuria. Denies myalgias, 
arthralgias, or rash.

 
Past Medical History:
HTN 
HLD
Hypothyrodism
Borderline DM 
Neuropathy 
 
Social History:
___
Family History:
Father with ___. Mother with ___ Cancer. DM. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
PHYSICAL EXAMINATION
Vitals:  98.5 60 112/69 - SBP180s 16 97% RA 
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR
Pulmonary: Breathing comfortably on room air
Abdomen: Soft
Extremities: 1+ pitting edema 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive, able to name ___ backward 
without difficulty. Speech is fluent with full sentences, intact 
repetition, and intact verbal comprehension. Naming intact.  No 
paraphasias.  No dysarthria. Normal prosody. Able to register 3 
objects and recall ___ at 5 minutes. No apraxia. No evidence of 
hemineglect. No left-right confusion. Able to follow both 
midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting. 
EOMI, no nystagmus. V1-V3 without deficits to light touch 
bilaterally.  Decreased activation of left mouth. Hearing intact 
to finger rub bilaterally.  Palate elevation symmetric. 
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      3+       0
 R  2+    2+     2+      2+       0  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch bilaterally. Decreased pp 
to mid-shin bilaterally. Decreased proprioception at Great toe 
to small amplitude movements (intact to large amplitude 
movements) bilaterally.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements.

- Gait: Deferred ___ lines 
DISCHARGE PHYSICAL EXAM:
Non-focal
 
Pertinent Results:
___ 03:57PM BLOOD WBC-11.1* RBC-4.50 Hgb-12.2 Hct-39.4 
MCV-88 MCH-27.1 MCHC-31.0* RDW-16.1* RDWSD-51.6* Plt ___
___ 03:57PM BLOOD Neuts-46.3 ___ Monos-4.2* Eos-2.2 
Baso-0.3 Im ___ AbsNeut-5.14 AbsLymp-5.17* AbsMono-0.47 
AbsEos-0.24 AbsBaso-0.03
___ 03:57PM BLOOD ___ PTT-29.8 ___
___ 03:57PM BLOOD Glucose-114* UreaN-21* Creat-1.2* Na-142 
K-4.5 Cl-106 HCO3-18* AnGap-23*
___ 03:57PM BLOOD ALT-12 AST-24 AlkPhos-72 TotBili-0.3
___ 03:57PM BLOOD Albumin-4.1 Calcium-9.2 Mg-1.7 
Cholest-235*
___ 03:57PM BLOOD Triglyc-167* HDL-55 CHOL/HD-4.3 
LDLcalc-147*
___ 03:57PM BLOOD TSH-4.0

___ 06:40AM BLOOD WBC-7.0 RBC-3.73* Hgb-10.1* Hct-32.6* 
MCV-87 MCH-27.1 MCHC-31.0* RDW-16.3* RDWSD-52.1* Plt ___
___ 06:40AM BLOOD ___ PTT-29.9 ___
___ 06:40AM BLOOD Glucose-98 UreaN-17 Creat-1.0 Na-143 
K-3.5 Cl-110* HCO3-20* AnGap-17
___ 06:40AM BLOOD ALT-7 AST-13 LD(LDH)-155 CK(CPK)-48 
AlkPhos-55 TotBili-0.3
___ 06:40AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:40AM BLOOD Albumin-3.2* Calcium-8.2* Phos-3.6 
Mg-1.5* Cholest-170
___ 06:40AM BLOOD %HbA1c-5.9 eAG-123
___ 06:40AM BLOOD Triglyc-152* HDL-40 CHOL/HD-4.3 
LDLcalc-100
___ 06:40AM BLOOD TSH-5.5*

___ H&N
  
1. No evidence of intracranial hemorrhage.  Please refer to 
subsequent MRI 
demonstrating right precentral gyrus subacute infarction. 
2. Luminal irregularity of the intradural V4 segment of the left 
vertebral 
artery, likely atherosclerotic as described above. 
3. Mild luminal narrowing of the left posterior cerebral artery. 
 Otherwise, 
unremarkable CTA head without stenosis, occlusion, or aneurysm. 
4. Unremarkable CTA neck without evidence of internal carotid 
stenosis by 
NASCET criteria. 
5. Multiple bilateral pulmonary nodules, measuring up to 5 mm on 
the right.  
Recommend correlation with history and prior imaging.  If no 
prior imaging, 
the ___ guidelines for pulmonary nodule 
guidelines suggest for 
pulmonary nodules greater than 4 mm or less than 6mm, 12 month 
___ in 
low-risk patients, and ___ month ___ in high risk 
patients. 
6. Nonspecific mediastinal lymphadenopathy, measuring up to 1.1 
cm. 

___ Head w/o
1. Subacute infarction within the right precentral gyrus. 
2. No evidence of intracranial hemorrhage. 
3. Involutional changes with minimal probable chronic small 
vessel ischemic 
disease. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with HTN, HLD, preDM who was 
admitted to the Neurology stroke service with slurred speech and 
facial droop (uncertain laterality). An MRI showed an acute 
ischemic stroke in the R precentral gyrus. Her stroke was most 
likely secondary to a proximal embolic phenomenon given the 
cortical appearance of the infarcts and lack of other compelling 
etiology (only very mild intracranial atherosclerosis). Her 
deficits improved rapidly, and she had essentially returned to 
baseline by the time of discharge. She lives at home with her 
daughter, and is safe to discharge back to home.

Ms. ___ wishes to ___ with neurology closer to her home 
in ___, ___. She would also like to have the recommended 
cardiology testing (ECHO, event monitor) be performed through 
her PCP's office if at all possible. We will help to facilitate 
this by contacting her PCP's office on ___.

=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 147) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 150 mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Furosemide 10 mg PO EVERY OTHER DAY 
6. Co Q-10 (coenzyme Q10) 100 mg oral DAILY 
7. Megestrol Acetate 40 mg PO QID 

 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
3.  amLODIPine 5 mg PO DAILY  
4.  Co Q-10 (coenzyme Q10) 100 mg oral DAILY  
5.  Furosemide 20 mg PO EVERY OTHER DAY  
6.  Levothyroxine Sodium 100 mcg PO DAILY  
7.  Lisinopril 10 mg PO DAILY  
8.  Metoprolol Succinate XL 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R MCA territory infarcts

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized due to symptoms of nausea, slurred speech 
and facial droop resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
- high blood pressure
- high cholesterol
- pre-diabetes

We are changing your medications as follows:
- increase aspirin to 325mg daily

Please take your other medications as prescribed, including your 
statin (atorvastatin 40mg daily).

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___